US06824882B2
To a solution of 7.03 g of 1-(diethylphosphono)-8-(nonafluorobutyl)octane in 30 mL of dichloromethane was added 6.12 g of bromotrimethylsilane. After 18 hr at room temperature, the solution was concentrated to a pale yellow liquid, and the intermediate silylphosphonate ester was dissolved in 150 mL of methanol. The resultant solution was stirred at room temperature for 30 min and concentrated to a white solid. Dissolution in methanol and concentration were repeated two times, and two recrystallizations of the crude product from acetonitrile gave 4.68 g of 1-phosphono-8-(nonafluorobutyl)octane (CF3(CF2)3(CH2)8PO3H2) as white crystals, m.p. 87-89° C.

reactant | 1-(diethylphosphono)-8-(nonafluorobutyl)octane | 7.03 g | C(C)OP(=O)(OCC)CCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C16H26F9O3P
reactant | bromotrimethylsilane | 6.12 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-phosphono-8-(nonafluorobutyl)octane | 4.68 g | P(=O)(O)(O)CCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C12H18F9O3P
